US06638929B2
3-Amino-5-nitrobenzo[b]thiophene
A solution of 23.00 g (91.26 mmol) of methyl 3-amino-5-nitrobenzo[b]thiophene-2-carboxylate (J. Hetero. Chem., 34(4), 1163 (1997)) in 100 mL of 1-methyl-2-pyrrolidinone and 30 mL of 1-methylpiperazine is heated at 180° C. for 2 hours. The reaction is cooled to room temperature and poured into water. The resultant solid is collected by filtration and washed with water. The solid is dissolved in a mixture of ethyl acetate and diethyl ether and the solution is washed with water twice. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. Diethyl ether and hexane are added to the residue and the dark red solid is collected by filtration to provide 11.17 g (63%), mp 155-158° C.

reactant | methyl 3-amino-5-nitrobenzo[b]thiophene-2-carboxylate | 91.26 mmol, 23.00 g | NC=1C2=C(SC1C(=O)OC)C=CC(=C2)[N+](=O)[O-] | C10H8N2O4S
reactant | water | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
solvent | 1-methylpiperazine | 30 mL | CN1CCNCC1 | C5H12N2
product | 3-Amino-5-nitrobenzo[b]thiophene | NC=1C2=C(SC1)C=CC(=C2)[N+](=O)[O-] | C8H6N2O2S
